Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypotension 
 
Major Surgical or Invasive Procedure:
Paracentesis
Midline line placement 
endoscopic ultrasound

 
History of Present Illness:
___ male with history of EtOH abuse, HTN, anxiety, Stage 
IIA (ypT3, N0, cM0) pancreatic cancer s/p neoadjuvant 
FOLFIRINOX, chemoradiation followed by ___ with significant 
surgical complications presents from urgent care for 
hypotension.

Patient was receiving care at ___ previously. He first had 
abdominal symptoms in ___. EUS on ___ revealed dilated 
pancreatic duct and hypoechoic mass at head of pancreas, and 
cytology was suspicious for adenocarcinoma. He received C1 of 
FOLFIRINOX on ___. He has since finished 8 cycles of 
FOLFIRINOX, six weeks of chemoradiation with oral capecitabine, 
and Whipple procedure on ___. Since the procedure, he has 
been having recurrent ascites requiring monthly paracentesis. 
Please see outpatient oncology note for full details. 

Per report, patient fell on ___ night and was down on the 
ground until 8 AM on ___ morning. Per patient report, he 
kneeled down to look for something under the couch but had no 
strength to get himself up once he was on the ground. He denies 
falling; he had head shaking but did not lose consciousness and 
did not strike his head. He was instructed to present to urgent 
care, which he did on ___. At urgent care, he endorses pain all 
over, and he was found to have bandages on shins and arms. He 
was found to be hypotensive to 86/66, so he was transferred to 
___.

In ED initial VS were T 98.0, HR 73, BP 87/54, RR 18, and O2 98% 
RA. Exam was notable for normal neurologic exam, normal 
abdominal exam, and diffuse ecchymoses. Labs notable for WBC 
2.5, hgb 9.4, ALT 33, AST 58, Tbili 0.6, lipase 4, CK 388, Cr 
0.8, K 3.4, trop 0.04, INR 1.1, lactate 0.8. UA with 4 WBC, few 
bacteria, neg leuks, neg nitrites, and 0 epis. Utox positive for 
benzos but negative otherwise. 

In the ED, he then became febrile to 102.9 and hypotensive to 
81/54. He received 3L of fluid in the ED. He was given vanc, 
zosyn, and ceftriaxone in the ED. Due to persistent hypotension, 
he was started on levophed through the PICC.

EKG shows atrial fibrillation with ventricular rate 85, normal 
axis, no ischemic changes. 

CXR ___: 

Slight blunting the right costophrenic angle may be relate to 
hyperinflation versus a trace pleural effusion.  No large 
pleural effusion.  No focal consolidation seen. 

CTHNC ___:

No acute intracranial abnormalities.

CT Abd/Pelvis ___:

1. Moderate amount of intraperitoneal and pelvic free fluid, 
unchanged from recent and remote prior.  No definite evidence of 
superimposed acute intra-abdominal process. 

2. Patient is status post Whipple procedure for adenocarcinoma 
of the pancreas with appropriate postsurgical changes.  However, 
there is increased soft tissue density involving the distal 
pancreatic body/tail which may represent disease recurrence. 

3. Unchanged nonobstructing predominately small bowel containing 
right ventral hernia. 

On arrival to the FICU, he confirms the above history. His 
levophed is at 0.09.

 
Past Medical History:
-Abscess of liver ___

-___ Albicans ___ Enterococcus See micro from

___

-Prior Alcohol abuse

-Anxiety

-Ascites

-Atrial fibrillation

-Bacteremia due to Klebsiella pneumoniae ___

-Diabetes mellitus ___

-Gallstones

-Herniated cervical intervertebral disc ___

-Hypertension

-?Liver disease

-S/P arthroscopic surgery of left knee ___

-S/P rotator cuff surgery ___

-Tonsillectomy

-Vitamin D deficiency

 
Social History:
___
Family History:
No premature coronary artery disease or sudden

death. No family history of malignancy. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  

VITALS: Reviewed in metavision  

GENERAL: In NAD. 

HEENT: Dry mouth. Sclera anicteric b/l.

NECK: No neck tenderness upon palpation or movement.

LUNGS:  CTAB. No wheezes/rales/rhonchi.

CV:  RRR. S1, S2. No MGR.

ABD: +BS. Soft, non-tender to palpation throughout. Large 
ventral hernia in RLQ. 

EXT:  No edema.

SKIN:  Diffuse ecchymoses on arms. Warm.

NEURO:  A+O x3.

 
Discharge exam:
hysical exam
___ ___ Temp: 97.8 PO BP: 125/84 HR: 78 RR: 18 O2 sat: 97%
O2 delivery: RA 
General:  in NAD, lying in bed, very talkative.
HEENT:  OP moist, no LAD.
Resp CTA B, no rales, wheezes
CV RRR without murmurs, no murmurs appreciated.
GI soft, NT, ND, NABS, with large ventral abdominal hernia.  no
obvious fluid wave.
MS:  no edema
Neuro:  alert/oriented X3, moving all extremities, no asterixis.
Midline in left upper arm.
Skin with multiple ecchymoses, and skin tear on left wrist,
wrapped.
Psych: appropriate.

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 03:15PM BLOOD WBC-2.5* RBC-2.83* Hgb-9.4* Hct-27.4* 
MCV-97 MCH-33.2* MCHC-34.3 RDW-13.0 RDWSD-46.1 Plt Ct-UNABLE TO 
___ 03:15PM BLOOD Neuts-69.9 ___ Monos-9.6 Eos-0.8* 
Baso-0.0 Im ___ AbsNeut-1.74 AbsLymp-0.48* AbsMono-0.24 
AbsEos-0.02* AbsBaso-0.00*
___ 03:15PM BLOOD ___ PTT-25.6 ___
___ 03:15PM BLOOD Glucose-116* UreaN-16 Creat-0.8 Na-138 
K-3.4* Cl-103 HCO3-26 AnGap-9*
___ 03:15PM BLOOD ALT-33 AST-58* CK(CPK)-388* AlkPhos-96 
TotBili-0.6
___ 03:15PM BLOOD cTropnT-0.04*
___ 03:24PM BLOOD Lactate-0.8

Microbiology:
=============
urine culture negative

___ blood cultures on admission positive as below:
___, 17, 18  - all negative

___ 3:16 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      KLEBSIELLA PNEUMONIAE.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ENTEROBACTER CLOACAE COMPLEX.    FINAL SENSITIVITIES. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |          ENTEROBACTER CLOACAE 
COMPLEX
                             |          |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

___ 5:30 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      KLEBSIELLA PNEUMONIAE. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 
      ENTEROBACTER CLOACAE COMPLEX. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 
      ACINETOBACTER BAUMANNII.    FINAL SENSITIVITIES. 
         "Note, for Amp/sulbactam, higher-than-standard dosing 
needs to be
         used, since therapeutic efficacy relies on intrinsic 
activity of
         the sulbactam component". 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ACINETOBACTER BAUMANNII
                             |   
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     8 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
LEVOFLOXACIN----------<=0.12 S
MEROPENEM-------------   0.5 S
PIPERACILLIN/TAZO-----    32 I
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ ___ ON ___ - 
___. 
      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

STUDIES: 
========
CHEST (PA & LAT) Study Date of ___ 3:30 ___ 
Slight blunting the right costophrenic angle may be relate to 
hyperinflation 
versus a trace pleural effusion.  No large pleural effusion.  No 
focal 
consolidation seen. 

 CT HEAD W/O CONTRAST Study Date of ___ 4:20 ___ 
No acute intracranial abnormalities.

 CT ABD & PELVIS WITH CONTRAST Study Date of ___ 6:38 ___ 
1. Moderate amount of intraperitoneal and pelvic free fluid, 
unchanged from 
recent and remote prior.  No definite evidence of superimposed 
acute 
intra-abdominal process. 
2. Patient is status post Whipple procedure for adenocarcinoma 
of the pancreas 
with appropriate postsurgical changes.  However, there is 
increased soft 
tissue density involving the distal pancreatic body/tail which 
may represent 
disease recurrence. 
3. Unchanged nonobstructing predominately small bowel containing 
right ventral 
hernia. 
  
RECOMMENDATION(S):  Follow-up pancreatic MRI or multiphasic CTA 
is recommended 
to further characterize the increased soft tissue density 
involving the distal 
pancreatic body/tail. 

Transthoracic Echocardiogram Report
___ 
The left atrium is mildly dilated. The right atrium is mildly 
enlarged. There is mild symmetric left
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular
systolic function. The visually estimated left ventricular 
ejection fraction is 55-60%. There is no resting
left ventricular outflow tract gradient. Mildly dilated right 
ventricular cavity with normal free wall
motion. The aortic sinus is mildly dilated with mildly dilated 
ascending aorta. The aortic arch diameter
is normal. The aortic valve leaflets (?#) are mildly thickened. 
No masses or vegetations are seen on the
aortic valve. There is no aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve leaflets
appear structurally normal with no mitral valve prolapse. No 
masses or vegetations are seen on the
mitral valve. There is trivial mitral regurgitation. The 
tricuspid valve leaflets appear structurally normal.
No mass/vegetation are seen on the tricuspid valve. There is 
physiologic tricuspid regurgitation. There is
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.
IMPRESSION: No 2D echocardiographic evidence for endocarditis. 
Mild symmetric left ventricular
hypertrophy with normal cavity size and regional/global LV 
systolic function. Mildly dilated right
ventricle with normal RV systolic function. Mild pulmonary 
hypertension. Mildly dilated thoracic aorta.

Ultrasound right arm:
Imaging:
IMPRESSION:  
  
Nonocclusive deep vein thrombosis in the right subclavian vein 
extending peripherally through the axillary vein to the basilic 
vein. 

Pathology:
pancreas cyst ___ pending 

Discharge labs:
___ 05:45AM BLOOD WBC-2.6* RBC-2.74* Hgb-8.7* Hct-26.9* 
MCV-98 MCH-31.8 MCHC-32.3 RDW-13.5 RDWSD-47.6* Plt ___
___ 05:45AM BLOOD Glucose-114* UreaN-5* Creat-0.8 Na-141 
K-3.8 Cl-105 HCO3-25 AnGap-___RIEF ICU COURSE ___ 
==========================
___ male with history of EtOH abuse, HTN, anxiety, Stage 
IIA (ypT3, N0, cM0) pancreatic cancer s/p neoadjuvant 
FOLFIRINOX, chemoradiation followed by Whipple with significant 
surgical complications, who presented with hypotension, fevers 
requiring levophed, now on vanc/zosyn.

# CLABSI:
# Septic shock: 
Patient presented after fall without loss of consciousness, per 
patient. Pt febrile and hypotensive in ED, BCx from ED positive 
for GNR in ___ bottles, likely from ___ line. CXR without 
evidence of consolidation; UA unremarkable; CT abd/pelvis 
without acute intraabdominal process. As per outpatient notes, 
he has had weekly dressing changes, but it is unclear if he 
performs appropriate line care otherwise. He required pressors 
in the FICU, but was weaned off and stable prior to call out to 
floor. He was continued on vanc/zosyn. 

He was seen by infectious disease who recommended an ultrasound 
a deep vein thrombosis in the site of his prior PICC line.  This 
did show a diffuse clot which was assumed to be the source of 
his polymicrobial bacteremia.  The PICC had already been 
discontinued but was thought to be the inciting event for the 
clot and a subsequent infection.  He was continued on Zosyn 
throughout his hospitalization and then transitioned to 
ertapenem at the time of discharge.  He will complete a 14 day 
course of IV antibiotics on ___ and then transition to 2 
weeks of ciprofloxacin to complete a four-week course.  He was 
afebrile throughout the remainder of his hospitalization after 
discharge from the intensive care unit.

# Pancreatic cancer: 
Stage IIa unresectable pancreatic cancer s/p neoadjuvant 
FOLFIRINOX, chemoradiation, and Whipple procedure. Per ___ 
clinic note, he appears to be disease free. Last CA ___ of 12 
on ___. However, imaging on admission raised some c/f 
disease recurrence, which will need to be assessed on MRI.  This 
was biopsied via endoscopic ultrasound on the day of discharge 
after it not possible to biopsy this by interventional radiology 
and CT-guided biopsy.  Pathology was pending at the time of 
discharge

# Deep vein thrombosis of the right upper extremity, PICC 
associated
He was found to have a DVT of his upper extremity on ultrasound 
on ___.  He was initially started on heparin given the plan for 
paracentesis the following day.  He was subsequently 
transitioned apixaban.  Anticoagulation was held for a day prior 
to his endoscopic ultrasound.  He was restarted on apixaban at 
the time of discharge.  We discussed in detail the choice 
between apixaban and 90 from a rivaroxaban and he opted for 
apixaban.  He was counseled extensively on the need to continue 
this medication for at least ___ months or until as directed by 
his oncologist.  He would likely benefit from lifelong 
anticoagulation prior history of atrial fibrillation.  He was 
deemed to be a poor Lovenox candidate as he has had trouble 
complying in the past with Coumadin.

# pancytopenia

His platelet counts on OSH records from ___ and ___ were 120 
and 147, respectively. This admission patient is more 
thrombocytopenic than his apparent baseline. Likely due to his 
congestive hepatopathy and hepatic vascular insufficiency ___ 
his Whipple procedure requiring weekly paracenteses. Also 
possible marrow suppression iso sepsis. Of note, per ___ 
records, patient has a history of being pancytopenic with a 
temporal correlation with ceftriaxone administration.  His 
platelets were slowly recovering throughout hospitalization and 
were 133 by the time of discharge.  In addition

In addition to thrombocytopenia, he also had anemia and 
ischemia.  These were all thought to be secondary to a 
combination of infection as well as his chronic liver disease 

# Fall: 
Patient reports fall at home prior to presentation and was 
laying down for several hours before being found by friend.  He 
felt extremely weak at the time likely in the setting of the 
bacteremia.  Denies LOC and head CT without evidence of bleed. 
Unclear cause of fall -- may be presyncope from arrhythmia vs 
valvular dysfunction, can also consider seizure. CK in 500s. TTE 
 showed EF of 55-60% with normal LV function.  He had no further 
episodes of falling position

 
# Atrial fibrillation: 
Patient is not compliant with home metoprolol or Coumadin. 
Admission INR 1.1. CHADsVASC of at least 2. Held metoprolol iso 
sepsis, and held AC pending further discussion. 

#Cirrhosis with evidence of liver dysfunction.
He has a prior history of liver dysfunction with refractory 
ascites likely due to his prior surgery for pancreatic cancer.  
His chronic diuretics were held for multiple days due to his 
hypotension restarted several days prior to discharge.  He did 
undergo an uncomplicated paracentesis on ___ with 3 L of 
fluid removed.  The fluid was negative for SP BP.  He received 
albumin as a result.  The final fluid culture pending at the 
time of discharge.  He will follow-up for repeat paracentesis 
with his prior physicians at ___ until he 
establishes care with a oncologist.

Transitional issues:
–Outpatient follow-up with surgery, hepatology, oncology
–Pancreatic cyst pathology still pending at the time of 
discharge
–Extensively counseled regarding anticoagulation and 
antibiotics.
–Set up with outpatient infusion clinic to complete his 
ertapenem given concern for his ability to deliver this at home 
as well as expense

Greater than 30 minutes spent on discharge counseling, 
communication and planning.
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 125 mg PO DAILY 
___  MD to order daily dose PO DAILY16 
3. Metoprolol Succinate XL 12.5 mg PO BID 
4. Furosemide 40 mg PO DAILY 
5. ALPRAZolam 1 mg PO DAILY:PRN anxiety 
6. Multivitamins 1 TAB PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Vitamin B Complex 1 CAP PO DAILY 
9. Viokace (lipase-protease-amylase) 20,880-78,300- 78,300 unit 
oral TID W/MEALS 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
Take 10 mg twice daily for 7 days, then 5 mg twice daily 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth daily Disp #*74 
Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 14 Days 
To start on ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*28 Tablet Refills:*0 
3.  ertapenem 1 gram injection DAILY Duration: 7 Days  
4.  Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush  
5.  Sodium Chloride 0.9%  Flush ___ mL IV Q8H and PRN, line 
flush  
6.  Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush  
7.  ALPRAZolam 1 mg PO DAILY:PRN anxiety  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Furosemide 40 mg PO DAILY  
10.  Metoprolol Succinate XL 12.5 mg PO BID  
11.  Multivitamins 1 TAB PO DAILY  
12.  Spironolactone 125 mg PO DAILY  
13.  Viokace (lipase-protease-amylase) 20,880-78,300- 78,300 
unit oral TID W/MEALS  
14.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gram negative rod sepsis
History of apparent pancreatic cancer
Deep vein thrombosis of the upper extremity
Atrial fibrillation
Cirrhosis
Thrombocytopenia, neutropenia, and anemia
 
Discharge Condition:
Tolerating diet, no jaundice.
 
Discharge Instructions:
Why were you admitted?  You were septic from an infected blood 
clot in your arm.  This was a result of the PICC line you had. 

 What did we do?
-the PICC line was removed
-you had IV antibiotics while you are here.  We will continue 
ERTAPENEM infusion at the ___ infusion clinic until ___.  After that you will take ciprofloxacin for 2 weeks.
-Because you had a blood clot in your arm, we started you on a 
blood thinner.  You will need to take this every day twice a day 
until Dr. ___ you to stop.  For the first 7 days, 
take two tablets twice a day, and then on ___, one tablet twice 
a day.

The PICC line was removed

 
Followup Instructions:
___